US06972287B1
Step B (Scheme 1): Preparation of 4-[2-(4-Chloro-3-trifluoromethylphenyl)ethyl]-benzenamine
The title compound was prepared from trans-1-chloro-2-trifluoromethyl-4-[2-(4-nitrophenyl)ethenyl]benzene (22.53 g, 0.069 mol) and Ra—Ni (22 g) in THF (0.5 L) at 18° C. to 29° C. (ΔP=20.5 psi) under a hydrogen atmosphere using the procedure described in Example 1, Step B. This procedure yielded a white solid, 20.0 g (66.73 mmol, 97%) of the desired product. mp 62-64° C.

reactant | trans-1-chloro-2-trifluoromethyl-4-[2-(4-nitrophenyl)ethenyl]benzene | 0.069 mol, 22.53 g | ClC1=C(C=C(C=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C15H9ClF3NO2
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 22 g | [Ni] | Ni
product | 4-[2-(4-Chloro-3-trifluoromethylphenyl)ethyl]-benzenamine | 66.73 mmol, 20.0 g, 97% | ClC1=C(C=C(C=C1)CCC1=CC=C(C=C1)N)C(F)(F)F | C15H13ClF3N
